US04093812
Add a solution of 0.64 g of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid chloride dropwise to a warm solution of 0.60 g of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid in 10 ml of dioxane and 0.48 ml of pyridine at 40° C. Stir the resulting reaction mixture at from 45° to 50° C for 6 hours. Draw off the formed precipitate and recrystallize it from dimethylformamide to obtain 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid anhydride [m.p. 262° to 264° C].

reactant | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid chloride | 0.64 g | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)Cl)C1=CC=CC=C1 | C14H8ClN3O4
reactant | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid | 0.60 g | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)O)C1=CC=CC=C1 | C14H9N3O5
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | pyridine | 0.48 ml | N1=CC=CC=C1 | C5H5N
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid anhydride | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)OC(=O)C=1C(=NN(C1)C1=CC=CC=C1)C=1OC(=CC1)[N+](=O)[O-])C1=CC=CC=C1 | C28H16N6O9
